US08334286B2
(R)-(+)-2-Benzylhexahydropyrrolo[1,2-a]pyrazin-6(7H)-one
Methanesulfonic acid 2-[benzyl-((R)-5-oxo-pyrrolidin-2-ylmethyl)-amino]-ethyl ester (3.5 g, 10.74 mmol) was dissolved in CH3CN (20 ml) and then 60% NaH (558 mg, 13.96 mmol) was added portionwise at room temperature. After stirring for 4 hours, the solvent was removed under vacuum and the residue was treated with water and extracted with ethyl acetate. The organic phase was washed with brine, dried (Na2SO4) and evaporated under vacuum. The residue was purified by flash chromatography (DCM/abs EtOH/Petroleum Ether/33% NH4OH/Et2O 300/180/900/9.9/360 respectively) to afford the title compound as yellow oil (2.1 g, 85% yield).

reactant | Methanesulfonic acid 2-[benzyl-((R)-5-oxo-pyrrolidin-2-ylmethyl)-amino]-ethyl ester | 10.74 mmol, 3.5 g | C(C1=CC=CC=C1)N(CCOS(=O)(=O)C)C[C@@H]1NC(CC1)=O | C15H22N2O4S
reactant | NaH | 13.96 mmol, 558 mg | [H-].[Na+]
solvent | CH3CN | 20 ml | CC#N | C2H3N
product | (R)-(+)-2-Benzylhexahydropyrrolo[1,2-a]pyrazin-6(7H)-one | 2.1 g, 85% yield | C(C1=CC=CC=C1)N1C[C@@H]2N(CC1)C(CC2)=O | C14H18N2O
